Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Codeine / Latex / Lactose / Shellfish Derived
 
Attending: ___
 
Chief Complaint:
Vomiting and Diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o M h/o ESRD on HD ___, cirrhosis, d/sHF, C.diff x 1, 
presents with N/V/D x ___ days.  
.  
Pt was recently admitted 1 month ago to the ___ for 
a similar presentation and was treated for gastroenteritis. He 
was discharged after VS remained stable and the illness resolved 
on its own without much intervention. Stool Cxs were sent from 
that admission and were negative.  
.  
As far as this episode, as per pt, started ___ days ago as 
nausea and vomiting. Pt denies any blood in the vomit, and also 
reports diarrhea yesterday that also did not have any blood. 
When asked to describe the diarrhea, the pt is vague and can't 
endorse much in terms of mucus, quality of stool, color, 
caliber, but does not lack of blood. Per ED report, the diarrhea 
was reported to be yellow/green. Pt denies any abdominal pain, 
CP, and feels this is c/w his previous episodes of 
gastroenteritis. Pt endorses some dehydration/thirst. States 
hasn't been able to take POs and has no appetite. Doesn't know 
when stopped taking POs.  
.  
In the ED initial VS were: 98.8 81 142/70 16 100%. In the  
Low blood sugars got one amp of D50, on 50cc/hr NS, sent stool 
cultures, EKG-prolonged QTc, chest x-ray-?opacity.  
VS: 83, 112/84, 80, 100% on RA.  
.  
ROS was otherwise essentially negative.  

 
Past Medical History:
-ESRD of unknown etiology: s/p HD fistula RUE, on HD ___ 
at ___ in ___  
-Anemia ___ esrd  
-CAD with positive stress test ___  
-Systolic CHF - EF 20% from ___ TTE; RV systolic  
dysfunction/global free wall hypokinesis; 1+MR; "significant" 
PR.  
-HTN  
-Psoriasis  
-L3 burst fracture w/ neurologic compromise and retropulsion  
onto cauda L2-L4  
-Status post anterior-posterior spinal fusion of ___ 
 
-MSSA L2-L3 osteo/epidural abscess  
-MSSA Paraspinal abscess  
-Hx of MSSA bacteremia - ___  
-Hypothyroid  
-H/o sacral decub & groin ulcer  
-Restless leg syndrome  
-H/o abdominal fluid collection drained s/p anterior spinal  
fusion  

 
Social History:
___
Family History:
Father died of MI in ___ mother alive and well ___; 8 siblings, 
one of whom has HTN, one who has a cerebral aneurysm; he has no 
children.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: T 97.9, BP 150/87, HR 82, RR 18, 100/RA  
GENERAL: Pleasant, cachectic ___ in NAD  
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No 
LAD, No thyromegaly.  
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, 
rubs or ___. JVP= 7 cm  
LUNGS: CTAB, good air movement biaterally.  
ABDOMEN: Distended, hypoactive BS, NTTP, difficult to palpate 
for organomegaly.  
EXTREMITIES: No edema or calf pain, 2+ distal pulses  
SKIN: No rashes/lesions, ecchymoses.  
NEURO: grossly wnl  
PSYCH: Listens and responds to questions appropriately  

DISCHARGE PHYSICAL EXAM
Vitals: Tm99.1, Tc96.6, BP 110s-140s/60s-80s, P60s-70s, 18, 
98/RA  
GENERAL: Pleasant, cachectic ___ in NAD  
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No 
LAD, No thyromegaly.  
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, 
rubs or ___.  
LUNGS: CTAB except some coarse BS with expiration, good air 
movement biaterally.  
ABDOMEN: Distended, hypoactive BS, NTTP, difficult to palpate 
for organomegaly.  
EXTREMITIES: No edema or calf pain, 2+ distal pulses  
SKIN: No rashes/lesions, ecchymoses.  
NEURO: grossly wnl  
PSYCH: Listens and responds to questions appropriately  

 
Pertinent Results:
ADMISSION LABS

___ 03:20PM BLOOD WBC-6.5 RBC-4.07* Hgb-12.4* Hct-39.3* 
MCV-96 MCH-30.5 MCHC-31.6 RDW-17.6* Plt ___
___ 03:20PM BLOOD Neuts-79* Bands-1 Lymphs-12* Monos-8 
Eos-0 Baso-0 ___ Myelos-0
___ 03:20PM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-NORMAL 
Macrocy-1+ Microcy-NORMAL Polychr-NORMAL
___ 03:30PM BLOOD ___ PTT-27.3 ___
___ 03:20PM BLOOD Glucose-68* UreaN-19 Creat-4.9* Na-137 
K-4.9 Cl-93* HCO3-27 AnGap-22*
___ 07:45AM BLOOD Albumin-3.6 Calcium-9.3 Phos-5.3* Mg-2.1 
Iron-39*
___ 07:45AM BLOOD calTIBC-183* Ferritn-1479* TRF-141*

CXR
IMPRESSION: Ill-defined opacity within the right lower lobe 
concerning for an 
infectious process. Small bilateral pleural effusions. 
Cardiomegaly without 
overt evidence for congestive heart failure. 

EKG
Artifact is present. Sinus rhythm. The Q-T interval is 
prolonged. Non-specific 
ST-T wave changes. Compared to the previous tracing of ___ 
there is no 
significant change. 

 
Brief Hospital Course:
___ year old man with ESRD on HD, cirrhosis, d/CHF, 
and C.diff who presented with N/V/D x ___ days.  
.    
## N/V/Diarrhea: the ddx is recurrent C-diff, IBD, ischemic 
colitis, however all of these are less likely given benign 
abdominal exam, lack of blood, and lack of cramping and pain on 
exam. Regardless, stool Cxs were sent (C-diff negative, rest of 
panel pending). Given poor PO intake, rehydrated with 2 L of 
fluid given slowly.  Of note, he has multiple admissions for the 
same issue, and we were hesitant to attribute this again to 
gastroenteritis.  Rather, we sent for a random fecal fat which 
was pending at time of discharge.  We held off on sending a TTG 
given that this has been negative multiple times in the past.  
The pt was also scheduled for GI f/u to continue working on this 
issue.  We did continue the pt on his PO vanc for C-diff ppx, 
but agree with recent note from PCP that unclear that this is 
entirely required given that in our system, has only had Cdiff + 
x 1 and he continues ___ have diarrhea despite vancomycin 
treatment.  Pt notably had prolonged QTc, so did not give zofran 
for nausea, but rather gave compazine.  The pt's VS, WBC, and 
temp were trended and remained wnl throughout his hospital 
course.  The patient was kept on clears on th first day and 
advanced to a full renal diet (with low residue, low lactose) on 
HD2.  He felt much better after one day and he was discharged 
after being able to advance his diet to regulars (renal, low 
residue, lactose controlled).  His diarrhea and vomiting also 
resolved by that point in time. Of note, he had several organ 
involvements without clear diagnosis (renal, liver, cardiac, and 
GI). A unifying diagnosis in this relatively young man is 
needed. 
.  
## ESRD on HD: Pt is on ___ schedule, and given that he 
missed dialysis x 1, he was dialyzed on ___ instead.  We 
renally dosed his medications, and avoided nephrotoxins.
.  
## ?PNA/opacity on CXR: Seen on prior films, clinically looks 
well without respiratory si/sxs of PNA.  We followed Mr. ___ 
clinically, trended his WBC, temperature curve, and did not feel 
the need to treat with abx given his clinical picture and 
unchanged CXR.  
.
Of note, the opacity seems to possibly have a cavitary section, 
and we would consider CT Chest with contrast as an outpatient to 
fully evaluate this lesion.
.  
## Anemia/Hct drop: Pt noted to have Hct of 39 at time of 
admission, on HD2, noted to be 33. Per review of records, 33 
seems more likely his baseline and 39 may have been spuriously 
high. Iron studies c/w ACD.  Recheck of Hct was stable at 34.9.  
We continued to trend his Hct and kept an active t/S.  Guaiac 
was performed which was negative. 
.  
## report of prolonged QTc: EKG in ED showed prolonged QTc 
(473).  We avoided medications that could potentially increase 
this (FQ, zofran).  We continued to monitor the pt. 
.
## HTN: Continued home medications - lisinopril, Toprol XL  
.  
## CAD: Continued lisinopril and ASA and Toprol XL  
.  
## Smoking hx: nicotine patch while in house  
.
## Depression: Continue fluoxetine  
.
## FOLLOW UP ISSUES
1) Consider CT Chest with contrast to evaluate opacity on CXR 
that has been present in last few films.  Already discussed with 
PCP.
2) Consider d/c of PO vancomycin at later point given lack of 
evidence of multiple C-diff infections.
3) Consider decrease in narcotic dosages given somnolence noted 
in dialysis.
4) Will be seeing GI. Question of possible bxs to w/u this N/V  
issue.
 
Medications on Admission:
1. B complex-vitamin C-folic acid 1 mg - 1 capusle DAILY  
2. clonazepam 1 mg QHS  
3. fluoxetine 20 mg DAILY  
4. gabapentin 300 mg QHD  
5. hydromorphone 4 mg Q6H as needed for pain.  
6. levothyroxine 125 mcg DAILY  
7. lisinopril 5 mg DAILY  
8. lorazepam 1 mg DAILY  
9. metoprolol succinate 100 mg DAILY  
10. ropinirole 0.25 mg QPM  
11. sevelamer HCl 800 mg 3 TIMES A DAY WITH MEALS  
12. vancomycin 125 mg once a day  
13. ascorbic acid ___ mg DAILY  
14. aspirin 81 mg DAILY  

 
Discharge Medications:
1. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
2. clonazepam 1 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.  
3. fluoxetine 20 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
4. gabapentin 300 mg Capsule Sig: One (1) Capsule PO QHD (each 
hemodialysis).  
5. hydromorphone 4 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
6. levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. lorazepam 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
9. metoprolol succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
10. ropinirole 0.25 mg Tablet Sig: One (1) Tablet PO QPM (once a 
day (in the evening)).  
11. sevelamer HCl 800 mg Tablet Sig: One (1) Tablet PO three 
times a day: with meals.  
12. vancomycin 125 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
13. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Nausea, vomiting, Diarrhea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to take care of you during your 
hospitalization.  You were admitted to ___ with nausea, 
vomiting, and diarrhea.  This seems to be a frequent problem, so 
we sent some lab tests which showed that you did not C-diff and 
preliminarily showed no other infection.  You were rehydrated 
with an IV, and we slowly advanced your diet until you felt 
better.  We discharged you when you stopped having diarrhea and 
vomiting.

PLEASE MAKE THE FOLLOWING CHANGES TO YOUR MEDICATIONS
none

Please follow up with your physicians as indicated below
 
Followup Instructions:
___